US07902201B2
d) 3-(4-Fluoro-phenyl)-isoxazole-4-carboxylic acid
To a solution of 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester (849 g, 208 mmol) in ethanol (215 mL) was added aqueous sodium hydroxide (2 N, 161 mL, 323 mmol) and the resulting mixture stirred overnight at room temperature. The mixture was then acidified with HCl solution (4 N, 85 mL) to pH 2-3. The precipitate was then filtered off and dissolved in THF (700 mL) and then washed with saturated sodium chloride solution. The aqueous phase was then extracted with ethyl acetate and THF (1:1, 300 mL) and the combined organic phases dried over sodium sulfate and evaporated to afford the title compound (40.8 g, 94%) which was obtained as an orange solid. MS: m/e=206.1 [M−H]−.

reactant | 3-(4-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester | 208 mmol, 849 g | C(C)OC(=O)C=1C(=NOC1)C1=CC=C(C=C1)F | C12H10FNO3
reactant | sodium hydroxide | 323 mmol, 2 N, 161 mL | [OH-].[Na+]
reactant | HCl | 4 N, 85 mL | Cl | ClH
solvent | ethanol | 215 mL | C(C)O | C2H6O
product | 3-(4-Fluoro-phenyl)-isoxazole-4-carboxylic acid | 40.8 g, 94% | FC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C10H6FNO3
